.title MATRIX 1.4 IV T13 1400W RMS TD-CLASS - DEVELOPMENT RELEASE 1
.include "spice_models/model.lib"
V20 MAIN_IN 0 dc 0 ac 1.41 sin(0 1.41 1k 0 0)
V11 +120V 0 DC 120V
V12 0 -120V DC 120V
R901 VPOUT 0 4
D606 VSTAP Net-_D606-Pad2_ BAV21
R609 +120V Net-_Q606-Pad3_ 27k
D608 Net-_C603-Pad2_ +120V 1N4749
Q605 VSTAP Net-_Q605-Pad2_ +120V 2N5401
R607 VSTCP Net-_Q605-Pad2_ 150
C603 +120V Net-_C603-Pad2_ 4.7uF
C604 +120V VSGSPP 47uF
D607 VSTAP Net-_D607-Pad2_ BAV21
R611 VSGP Net-_Q608-Pad3_ 15
Q608 VSGSPP VSGZP Net-_Q608-Pad3_ 2N5401
R612 Net-_D607-Pad2_ VSGSPP 3.3k
XQ6011 VSFP VSGP +120V IRF9640
R613 +120V Net-_Q609-Pad3_ 27k
Q610 VSGP Net-_Q609-Pad3_ +120V 2N5401
Q609 VSGP Net-_D607-Pad2_ Net-_Q609-Pad3_ 2N5401
D609 0 VSFP MURF1560
R614 Net-_C603-Pad2_ 0 100k
Q611 Net-_Q611-Pad1_ Net-_C603-Pad2_ VSGSPP 2N5401
Q606 VSGZP Net-_D606-Pad2_ Net-_Q606-Pad3_ 2N5401
Q612 VSGSPP Net-_Q611-Pad1_ 0 MJE340
R608 Net-_D606-Pad2_ VSGSPP 3.3k
XQ6012 VSFP VSGP +120V IRF9640
C606 VSAVP +120V 1uF
L601 VSAVP VSFP 10uH
C605 VSAVP Net-_C605-Pad2_ 2200pF
R615 VSFP Net-_C605-Pad2_ 680
Q607 VSGZP Net-_Q606-Pad3_ +120V 2N5401
R610 VSGZP VSGSPP 3.3k
R4052 +120V Net-_Q403-Pad3_ 470
R4051 +120V Net-_Q403-Pad3_ 56
Q402 Net-_Q402-Pad1_ Net-_Q402-Pad2_ Net-_Q401-Pad3_ MPSA42
Q403 Net-_Q402-Pad1_ Net-_Q402-Pad1_ Net-_Q403-Pad3_ MPSA92
Q405 Net-_Q401-Pad3_ Net-_D401-Pad2_ Net-_Q405-Pad3_ MJE340
R4081 Net-_Q405-Pad3_ -120V 470
C410 0 -120V 10uF
C409 -120V 0 0.1uF
R4021 Net-_C402-Pad2_ 0 15k
R4022 Net-_C402-Pad2_ 0 270k
Q401 Net-_C404-Pad1_ Net-_C402-Pad2_ Net-_Q401-Pad3_ MPSA42
C402 0 Net-_C402-Pad2_ 220pF
R401 Net-_C402-Pad2_ Net-_C401-Pad2_ 180
C401 MAIN_IN Net-_C401-Pad2_ 10uF
RT401 VASP Net-_R412-Pad1_ 5k
R412 Net-_R412-Pad1_ Net-_Q407-Pad2_ 390
R410 Net-_Q407-Pad2_ VASN 1.2k
R404 Net-_Q402-Pad2_ Net-_C403-Pad1_ 180
C403 Net-_C403-Pad1_ 0 220uF
R4071 0 Net-_D401-Pad2_ 56k
R4072 0 Net-_D401-Pad2_ 56k
R4073 0 Net-_D401-Pad2_ 56k
R4074 0 Net-_D401-Pad2_ 56k
R4082 Net-_Q405-Pad3_ -120V 47k
D401 -120V Net-_D401-Pad2_ 1N4732
R4061 +120V Net-_Q404-Pad3_ 56
C407 0 +120V 0.1uF
C408 +120V 0 10uF
Q404 Net-_C404-Pad1_ Net-_Q402-Pad1_ Net-_Q404-Pad3_ MPSA92
R4062 +120V Net-_Q404-Pad3_ 470
XQ7011 VSFN VSGN -120V IRF640
XQ7012 VSFN VSGN -120V IRF640
C706 -120V VSAVN 1uF
L701 VSAVN VSFN 10uH
D709 VSFN 0 MURF1560
C705 VSAVN Net-_C705-Pad2_ 2200pF
R715 VSFN Net-_C705-Pad2_ 680
Q4146 VSAVN DRVN2 Net-_Q4146-Pad3_ 2SA1943
C406 0 Net-_C406-Pad2_ 0.1uF
D403 VSAVN VMOUT MURF1560
R420 VMOUT Net-_C406-Pad2_ 10
L401 VPOUT VMOUT 1uH
Q4145 VSAVN DRVN2 Net-_Q4145-Pad3_ 2SA1943
Q4144 VSAVN DRVN2 Net-_Q4144-Pad3_ 2SA1943
R708 Net-_D706-Pad1_ VSGSPN 3.3k
Q712 VSGSPN Net-_Q711-Pad1_ 0 MJE350
Q706 VSGZN Net-_D706-Pad1_ Net-_Q706-Pad3_ 2N5551
D706 Net-_D706-Pad1_ VSTAN BAV21
R714 0 Net-_C703-Pad1_ 100k
Q711 Net-_Q711-Pad1_ Net-_C703-Pad1_ VSGSPN 2N5551
C703 Net-_C703-Pad1_ -120V 4.7uF
C704 VSGSPN -120V 47uF
D708 -120V Net-_C703-Pad1_ 1N4749
R709 -120V Net-_Q706-Pad3_ 27k
Q705 VSTAN Net-_Q705-Pad2_ -120V 2N5551
R707 VSTCN Net-_Q705-Pad2_ 150
Q4143 VSAVN DRVN2 Net-_Q4143-Pad3_ 2SA1943
Q4141 VSAVN DRVN2 Net-_Q4141-Pad3_ 2SA1943
Q4142 VSAVN DRVN2 Net-_Q4142-Pad3_ 2SA1943
Q708 VSGSPN VSGZN Net-_Q708-Pad3_ 2N5551
Q709 VSGN Net-_D707-Pad1_ Net-_Q709-Pad3_ 2N5551
R711 Net-_Q708-Pad3_ VSGN 15
R712 Net-_D707-Pad1_ VSGSPN 3.3k
D707 Net-_D707-Pad1_ VSTAN BAV21
Q707 VSGZN Net-_Q706-Pad3_ -120V 2N5551
R713 Net-_Q709-Pad3_ -120V 27k
Q710 VSGN Net-_Q709-Pad3_ -120V 2N5551
R710 VSGZN VSGSPN 3.3k
R4194 VMOUT Net-_Q4144-Pad3_ 0.33
D402 VMOUT VSAVP MURF1560
R4184 Net-_Q4134-Pad3_ VMOUT 0.33
Q4136 VSAVP DRVP2 Net-_Q4136-Pad3_ 2SC5200
Q4135 VSAVP DRVP2 Net-_Q4135-Pad3_ 2SC5200
R4186 Net-_Q4136-Pad3_ VMOUT 0.33
R4195 VMOUT Net-_Q4145-Pad3_ 0.33
R4196 VMOUT Net-_Q4146-Pad3_ 0.33
R4185 Net-_Q4135-Pad3_ VMOUT 0.33
R4191 VMOUT Net-_Q4141-Pad3_ 0.33
R4192 VMOUT Net-_Q4142-Pad3_ 0.33
R4182 Net-_Q4132-Pad3_ VMOUT 0.33
R4183 Net-_Q4133-Pad3_ VMOUT 0.33
R4193 VMOUT Net-_Q4143-Pad3_ 0.33
R4181 Net-_Q4131-Pad3_ VMOUT 0.33
Q4131 VSAVP DRVP2 Net-_Q4131-Pad3_ 2SC5200
Q4132 VSAVP DRVP2 Net-_Q4132-Pad3_ 2SC5200
Q4133 VSAVP DRVP2 Net-_Q4133-Pad3_ 2SC5200
Q4134 VSAVP DRVP2 Net-_Q4134-Pad3_ 2SC5200
Q412 VSAVN DRVN1 DRVN2 2SA1943
R416 VMOUT DRVP2 5.6
R417 DRVN2 VMOUT 5.6
Q603 +120V Net-_Q602-Pad3_ Net-_Q603-Pad3_ MJE15032
Q602 +120V Net-_C602-Pad1_ Net-_Q602-Pad3_ MJE340
R606 +120V VSTCP 1
R605 Net-_Q603-Pad3_ VSAVP 56
R604 Net-_Q602-Pad3_ VSAVP 1.5k
Q604 VSTCP Net-_Q603-Pad3_ VSAVP 2SC5200
D605 Net-_D604-Pad2_ VSTCP MURF1560
D604 +120V Net-_D604-Pad2_ MURF1560
D702 Net-_C701-Pad1_ VMOUT 1N4007
R703 0 Net-_C701-Pad1_ 120k
R411 Net-_Q407-Pad2_ VASP 390
Q407 VASN Net-_Q407-Pad2_ VASP MJE350
C405 VASN VASP 0.1uF
Q410 -120V VASN DRVN1 MJE15033
R706 VSTCN -120V 1
Q704 VSTCN Net-_Q703-Pad3_ VSAVN 2SA1943
D704 Net-_D704-Pad1_ -120V MURF1560
D705 VSTCN Net-_D704-Pad1_ MURF1560
D703 Net-_C702-Pad2_ Net-_D703-Pad2_ 1N4734
C702 -120V Net-_C702-Pad2_ 22pF
Q702 -120V Net-_C702-Pad2_ Net-_Q702-Pad3_ MJE350
Q703 -120V Net-_Q702-Pad3_ Net-_Q703-Pad3_ MJE15033
R4141 Net-_Q408-Pad3_ -120V 470
R702 Net-_C701-Pad2_ Net-_C702-Pad2_ 120k
D701 Net-_C701-Pad2_ Net-_D701-Pad2_ 1N4007
R701 Net-_D701-Pad2_ -120V 12k
C701 Net-_C701-Pad1_ Net-_C701-Pad2_ 4.7uF
R4142 Net-_Q408-Pad3_ -120V 47k
Q408 VASN Net-_D401-Pad2_ Net-_Q408-Pad3_ MJE340
Q411 VSAVP DRVP1 DRVP2 2SC5200
R4151 DRVN1 DRVP1 120
D602 VMOUT Net-_C601-Pad2_ 1N4007
Q701 0 Net-_C701-Pad1_ Net-_D703-Pad2_ 2N5551
R704 VSAVN Net-_Q702-Pad3_ 1.5k
R705 VSAVN Net-_Q703-Pad3_ 56
D603 Net-_D603-Pad1_ Net-_C602-Pad1_ 1N4734
R603 Net-_C601-Pad2_ 0 120k
Q601 0 Net-_C601-Pad2_ Net-_D603-Pad1_ 2N5401
C601 Net-_C601-Pad1_ Net-_C601-Pad2_ 4.7uF
Q406 VASP Net-_C404-Pad1_ Net-_Q406-Pad3_ MJE350
R4091 +120V Net-_Q406-Pad3_ 150
R4092 +120V Net-_Q406-Pad3_ 820
C404 Net-_C404-Pad1_ VASP 220pF
R413 VASP Net-_R412-Pad1_ 2.2k
R4032 VMOUT Net-_Q402-Pad2_ 270k
R4031 VMOUT Net-_Q402-Pad2_ 15k
Q409 +120V VASP DRVP1 MJE15032
R601 +120V Net-_D601-Pad1_ 12k
D601 Net-_D601-Pad1_ Net-_C601-Pad1_ 1N4007
C602 Net-_C602-Pad1_ +120V 22pF
R602 Net-_C601-Pad1_ Net-_C602-Pad1_ 120k
.end
